US07553854B2
To the solution of 2-chloro-6-methoxybenzo[d]thiazole (2.0 g, 10 mmol) in 10 ml of NMP was added (S)-1-cyclohexylethanamine (2.3 g, 18 mmol) and DIPEA (3.5 ml, 20 mmol). The reaction solution was stirred at 110° C. for 96 hr. The reaction was worked up by adding 170 ml ethyl acetate and washed with 1×60 ml of saturated NaHCO3, 1×60 ml 5% NaHCO3 solution, 1×60 ml water, 1×60 ml saturated NaCl, dried with sodium sulfate, filtered and concentrated in vacuo to give (S)—N-(1-cyclohexylethyl)-6-methoxybenzo[d]thiazol-2-amine as crude solid (3.39 grams). ES/MS m/z 291.1 (MH+).

reactant | 2-chloro-6-methoxybenzo[d]thiazole | 10 mmol, 2.0 g | ClC=1SC2=C(N1)C=CC(=C2)OC | C8H6ClNOS
reactant | (S)-1-cyclohexylethanamine | 18 mmol, 2.3 g | C1(CCCCC1)[C@H](C)N | C8H17N
reactant | DIPEA | 20 mmol, 3.5 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl acetate | 170 ml | C(C)(=O)OCC | C4H8O2
solvent | NMP | 10 ml | CN1CCCC1=O | C5H9NO
product | (S)—N-(1-cyclohexylethyl)-6-methoxybenzo[d]thiazol-2-amine | C1(CCCCC1)[C@H](C)NC=1SC2=C(N1)C=CC(=C2)OC | C16H22N2OS
